US06001860
2-(Naphth-1-yl)-7,7-difluoroheptanamine
A mixture of 2-(naphth-1-yl)-7,7-difluoroheptanenitrile (413 mg, 1.51 mmol), Raney nickel (413 mg) and ammonia (0.9 g) in methanol (20 ml) was hydrogenated under 340 kPa (50 psi) hydrogen overnight at room temperature. The mixture was filtered and the filtrate was concentrated in vacuo. The residue was partitioned between ethyl acetate (50 ml) and water (40 ml) and the ethyl acetate extract was washed with brine (30 ml), dried (sodium sulfate) and concentrated in vacuo. The residue (400 mg) was purified by column chromatography on silica gel (100 g), eluting with 85:15 ethyl acetate/methanol to yield the title compound as an oil (321 mg, 77% yield). 1H NMR (300 MHz, CDCl3) δ1.35 (c, 6H), 1.78 (c, 4H), 3.08 (c, 2H), 3.61 (c, 1H), 5.52, 5.71, 5.9 (3t, total 1H), 7.37 (d, 1H), 7.5 (m, 3H), 7.75 (d, 1H), 7.88 (d, 1H), 8.16 (d, 1H).

reactant | 2-(naphth-1-yl)-7,7-difluoroheptanenitrile | 1.51 mmol, 413 mg | C1(=CC=CC2=CC=CC=C12)C(C#N)CCCCC(F)F | C17H17F2N
reactant | ammonia | 0.9 g | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 413 mg | [Ni] | Ni
solvent | methanol | 20 ml | CO | CH4O
product | 2-(Naphth-1-yl)-7,7-difluoroheptanamine | 321 mg, 77% yield | C1(=CC=CC2=CC=CC=C12)C(CN)CCCCC(F)F | C17H21F2N
